US03965115
Twenty-six grams of 7-methylxanthene-2-carboxylic acid is added to 400 ml. of absolute methanol. To the resultant solution are added 18 ml. of concentrated sulfuric acid and the mixture is then heated at reflux for about two hours. The mixture is then cooled to 40°C and sufficient water is added to bring the total volume to 1400 ml. The resultant mixture is then filtered to give methyl 7-methylxanthene-2-carboxylate.

reactant | 7-methylxanthene-2-carboxylic acid | Twenty-six grams | CC1=CC=C2OC=3C=CC(=CC3CC2=C1)C(=O)O | C15H12O3
reactant | methanol | CO | CH4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | methyl 7-methylxanthene-2-carboxylate | CC1=CC=C2OC=3C=CC(=CC3CC2=C1)C(=O)OC | C16H14O3
